US06211234B1
A solution of methyl 2,4-dihydroxybenzoate (6.73 g) in acetone (250 mL) is treated with potassium iodide (2.66 g), tetrabutylammonium chloride (0.05 g), potassium carbonate (5.53 g), and 4-chlorobenzyl chloride (7.08 g), and stirred at reflux for 24 hours. The mixture is filtered, and the filtrate evaporated. The residue is taken up in ethyl acetate, washed with water, dried, and evaporated. The residue is recrystallized from ethyl acetate to yield methyl 2-hydroxy-4-(4-chlorobenzyloxy)benzoate as colourless crystals (5.3 g, 45%), m.p. 119-121° C. 1H NMR (DMSO) 3.9(3H,s), 5.2(2H,s), 6.6(2H,m), 7.5(4H,m), 7.7(1H,d).

reactant | methyl 2,4-dihydroxybenzoate | 6.73 g | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | potassium iodide | 2.66 g | [I-].[K+]
reactant | potassium carbonate | 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorobenzyl chloride | 7.08 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | acetone | 250 mL | CC(=O)C | C3H6O
catalyst | tetrabutylammonium chloride | 0.05 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | methyl 2-hydroxy-4-(4-chlorobenzyloxy)benzoate | 5.3 g, 45% | OC1=C(C(=O)OC)C=CC(=C1)OCC1=CC=C(C=C1)Cl | C15H13ClO4
